US06579883B1
8-Chloro-3a-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione
A solution of 0.83 g (3.5 mmol) of 8-chloro-3a-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one in 100 ml of THF is refluxed with 2.86 g (7.1 mmol) of Lawesson's reagent for 1.5 hours. Then, the reaction mixture is concentrated by evaporation, and the residue is purified by column chromatography on silica gel with hexane-ethyl acetate: 0.86 g of product.

reactant | 8-chloro-3a-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 3.5 mmol, 0.83 g | ClC1=CC=2C3C(C(NC2C=C1)=O)(CCC3)F | C12H11ClFNO
reactant | Lawesson's reagent | 7.1 mmol, 2.86 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 8-Chloro-3a-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione | ClC1=CC=2C3C(C(NC2C=C1)=S)(CCC3)F | C12H11ClFNS
